US05296493
A solution of 1-benzyl-2-hydroxymethyl-imidazole (6 g, 32 mmol) in methylenechloride is slowly added thionylchloride (3.5 ml, 48 mmol) and after stirring at ambient temperature for 4 hours the reaction mixture is concentrated in vacuo yielding 1-benzyl-2-chloromethyl-imidazole, hydrochloride.

reactant | 1-benzyl-2-hydroxymethyl-imidazole | 32 mmol, 6 g | C(C1=CC=CC=C1)N1C(=NC=C1)CO | C11H12N2O
reactant | thionylchloride | 48 mmol, 3.5 ml | S(=O)(Cl)Cl | Cl2OS
solvent | methylenechloride | C(Cl)Cl | CH2Cl2
product | 1-benzyl-2-chloromethyl-imidazole, hydrochloride | Cl.C(C1=CC=CC=C1)N1C(=NC=C1)CCl | InChI=1S/C11H11ClN2.ClH/c12-8-11-13-6-7-14(11)9-10-4-2-1-3-5-10;/h1-7H,8-9H2;1H
